Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zocor / lisinopril / Bactrim
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30PM BLOOD WBC-10.4* RBC-3.53* Hgb-10.9* Hct-34.0 
MCV-96 MCH-30.9 MCHC-32.1 RDW-15.2 RDWSD-54.2* Plt ___
___ 09:30PM BLOOD Neuts-84.1* Lymphs-5.2* Monos-9.7 
Eos-0.0* Baso-0.5 Im ___ AbsNeut-8.72* AbsLymp-0.54* 
AbsMono-1.00* AbsEos-0.00* AbsBaso-0.05
___ 09:30PM BLOOD Glucose-123* UreaN-12 Creat-0.9 Na-135 
K-5.4 Cl-102 HCO3-23 AnGap-10

MICROBIOLOGY:
=============
___ 10:35PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-POSITIVE*
___ 10:15PM URINE Color-Straw Appear-CLEAR Sp ___
___ 10:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG

IMAGING:
========
CXR, ___:
Focal opacity in the right lower lung, suspicious for pneumonia. 
 Follow-up chest radiograph ___ weeks following a course of 
antibiotics is recommended document resolution. 

DISCHARGE LABS:
===============
___ 06:25AM BLOOD WBC-9.1 RBC-3.65* Hgb-11.2 Hct-35.1 
MCV-96 MCH-30.7 MCHC-31.9* RDW-15.2 RDWSD-54.3* Plt ___
___ 06:25AM BLOOD Glucose-199* UreaN-12 Creat-0.9 Na-139 
K-4.4 Cl-105 HCO3-21* AnGap-13
___ 06:25AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] Ensure completion of cefpodoxime and azithromycin (start date 
___, end date ___ as well as Oseltamivir (end date 
___.
[] Consider repeat CXR in ___ weeks to ensure resolution of 
infectious processes.

BRIEF HOSPITAL COURSE:
======================
___ female with a history of kidney transplant secondary 
to MPGN (on azathioprine) ___ years ago), HTN, who presented 
with a two day history of fevers, myalgias, congestion and found 
to have Flu B as well as likely superimposed pneumonia based on 
a right lower lobe infiltrate identified on CXR from admission. 
Patient was started on Oseltamivir and initially received 
ceftriaxone and azithromycin before transitioning to cefpodoxime 
and azithromycin. Oseltamivir will be continued through ___ 
and antibiotics will be continued through ___ for a total of 
a ___CUTE ISSUES:
=============
#Influenza B
#CAP
#Reactive airway disease
Patient presented with a two day history of fevers associated 
with myalgias, night sweats, sore throat, nasal congestion, as 
well as a cough. In the ED patient noted with a mild 
leukocytosis of 10.4 and was found to be Flu B positive. A CXR 
demonstrated a possible RLL pneumonia and received IV 
ceftriaxone, duonebs and 60 mg prednisone in the ED. On arrival 
to the ward, patient was continued on ceftriaxone and duonebs; 
azithromycin and Oseltamivir was added and prednisone was not 
continued. She was subsequently transitioned from ceftriaxone to 
PO cefpodoxime. Plan for azithromycin and cefpodoxime to be 
continued through ___ and Oseltamivir to be continued through 
___. 
 

CHRONIC ISSUES:
===============
#Renal transplant in ___
Currently at baseline Cr at 0.91.0 and no albuminuria. Patient 
was continued on home azathioprine. 

#HTN:
Continued home losartan 25mg daily. 

#HLD:
Continued atorvastatin 20mg daily. 

#Anxiety
Continued escitalopram 20mg daily and home lorazepam 0.5 mg PRN. 


#Vitamin D 
Continued 1000U daily.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin ___ mg PO PREOP 
2. Losartan Potassium 25 mg PO DAILY 
3. LORazepam 0.5-1 mg PO DAILY:PRN anxiety 
4. Atorvastatin 20 mg PO QPM 
5. AzaTHIOprine 100 mg PO DAILY 
6. liraglutide (weight loss) 3 mg/0.5 mL (18 mg/3 mL) 
subcutaneous DAILY 
7. ValACYclovir 500 mg PO Q12H:PRN herpes 
8. Aspirin 81 mg PO DAILY 
9. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN cough 
10. Escitalopram Oxalate 20 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 5 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO BID 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*22 Tablet Refills:*0 
3.  OSELTAMivir 75 mg PO BID Duration: 4 Days 
RX *oseltamivir 75 mg 1 capsule(s) by mouth once a day Disp #*4 
Capsule Refills:*0
RX *oseltamivir 75 mg 1 capsule(s) by mouth once a day Disp #*3 
Capsule Refills:*0 
4.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN cough  

5.  Amoxicillin ___ mg PO PREOP  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  AzaTHIOprine 100 mg PO DAILY  
9.  Escitalopram Oxalate 20 mg PO DAILY  
10.  liraglutide (weight loss) 3 mg/0.5 mL (18 mg/3 mL) 
subcutaneous DAILY  
11.  LORazepam 0.5-1 mg PO DAILY:PRN anxiety  
12.  Losartan Potassium 25 mg PO DAILY  
13.  ValACYclovir 500 mg PO Q12H:PRN herpes  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Influenza B
Community acquired pneumonia

SECONDARY DIAGNOSES:
===================
History of kidney transplant secondary to MPGN
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___ 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
===================================
- You were admitted because you had the congestion, a cough, 
fevers, and muscle pains.

What happened while I was in the hospital?  
==========================================
- you were found to have the flu and a pneumonia. You received 
anti-flu medications and antibiotics to treat this. Please 
continue these medications to completion of their course. 

What should I do after leaving the hospital?  
============================================
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  

 
Followup Instructions:
___